US07220862B2
4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1H-indazol-5-ylmethyl)-2-oxo-2-piperazin-1-yl-ethyl]-amide
To a degassed solution of 4-(3-(1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-piperazine-1-carboxylic acid benzyl ester (280 mg, 0.42 mmol) in methanol (50 ml) was added 10% palladized charcoal (50 mg). The mixture was shaken in a Parr apparatus under an atmosphere of hydrogen at 50 psi for 3 h. The mixture was filtered through celite. The filtrate was concentrated under reduced pressure to give the desired product in 91% yield. LC/MS: tR=1.22 min, 531 (MH)+.

reactant | 4-(3-(1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-piperazine-1-carboxylic acid benzyl ester | 0.42 mmol, 280 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(CC=1C=C2C=NNC2=CC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C36H40N8O5
reactant | charcoal | 50 mg | C | CH4
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1H-indazol-5-ylmethyl)-2-oxo-2-piperazin-1-yl-ethyl]-amide | 91% yield | N1N=CC2=CC(=CC=C12)CC(C(N1CCNCC1)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H34N8O3
